US06288082B1
3-chloro-4-(1,3-thiazol-2-ylsulfanyl)aniline
To a suspension of 3.8 g sodium hydride (60% in mineral oil) in 100 ml of dimethylformamide was added slowly a solution of 10.0 g of 2-mercapto thiazole in 100 ml of dimethylformamide. After 15 min a solution of 15.0 g 3-chloro-4-fluoro nitrobenzene in 50 ml of dimethylformamide was added. After 4 hrs, the mixture was poured into water. The resulting solid was collected, washed with water, and dried in vacuum. This material was mechanically stirred at reflux in a mixture of 830 ml of methanol, 230 ml of water, 37.0 g of ammonium chloride, and 30.1 g of iron powder for 4 hrs. The boiling mixture was filtered. The solvent was removed from the filtrate and the residue was extracted with hot ethyl acetate. The ethyl acetate solution was filtered through a short silica gel column. The solvent was removed and the residue was recrystallized from ether hexane giving 17.7 g of an off white solid.: mass spectrum electrospray, m/e): M+H 243.1.

reactant | sodium hydride | 3.8 g | [H-].[Na+]
reactant | 2-mercapto thiazole | 10.0 g | SC=1SC=CN1 | C3H3NS2
reactant | 3-chloro-4-fluoro nitrobenzene | 15.0 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4-(1,3-thiazol-2-ylsulfanyl)aniline | ClC=1C=C(N)C=CC1SC=1SC=CN1 | C9H7ClN2S2
